### ISSUE TITLE
test failure at chapter 13

### ISSUE THREAD

**Issue by soonhokong** [leanprover/tutorial#190]
```
ERROR executing 13_More_Tactics.org.1.lean, for in_code_block block starting at 31, produced output:
13_More_Tactics.org.1.lean:28:9: error:invalid 'rewrite' tactic, rewrite step failed using pattern
  0 + ?M_1
no subterm in the goal matched the pattern
proof state:
x : ℕ,
ih : x + 0 = 0 + x
⊢ succ x + 0 = 0 + succ x
13_More_Tactics.org.1.lean:30:0: error: don't know how to synthesize placeholder
y x : ℕ,
ih : x + y = y + x
⊢ succ x + y = y + succ x
13_More_Tactics.org.1.lean:25:0: error:invalid 'exact' tactic, term still contains metavariables after elaboration
  show succ x + y = y + succ x, from ?M_1
proof state:
y x : ℕ,
ih : x + y = y + x
⊢ succ x + y = y + succ x
13_More_Tactics.org.1.lean:31:0: error: failed to add declaration 'hide.add.comm' to environment, value has metavariables
remark: set 'formatter.hide_full_terms' to false to see the complete term
  λ (x y : ℕ),
    nat.rec … ?M_1 x
```

```lean
import data.nat
namespace hide
-- BEGIN
open nat

theorem zero_add (x : ℕ) : 0 + x = x :=
begin
  induction x with x ih,
    {exact rfl},
  rewrite [add_succ, ih]
end

theorem succ_add (x y : ℕ) : succ x + y = succ (x + y) :=
begin
  induction y with y ih,
    {exact rfl},
  rewrite [add_succ, ih]
end

theorem add.comm (x y : ℕ) : x + y = y + x :=
begin
  induction x with x ih,
    {show 0 + y = y + 0, by rewrite zero_add},
  show succ x + y = y + succ x,
    begin
      induction y with y ihy,
        {rewrite zero_add},
      rewrite [succ_add, ih]
    end
end
-- END
end hide
```

**Comment by soonhokong** [comment]
Closed by d9aa276de23086f70db5065297309e668baaa1a2
